US07888362B2
By a similar method as in Example 18, 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2-methyl-2H-isoquinolin-1-one was prepared from 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2H-isoquinolin-1-one using methyl iodide, and after it was made into an ethyl acetate solution, 1N hydrochloric acid ethanol solution was added thereto, precipitated crystals were separated by filtration, recrystallized from ethyl acetate and thereby 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2-methyl-2H-isoquinolin-1-one hydrochloride was obtained in the form of a white powder.

reactant | 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2-methyl-2H-isoquinolin-1-one | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC=C1C=CN(C(C1=C2)=O)C | C25H27N3O2S
reactant | 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2H-isoquinolin-1-one | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC=C1C=CNC(C1=C2)=O | C24H25N3O2S
reactant | methyl iodide | CI | CH3I
reactant | hydrochloric acid ethanol | 1N | C(C)O.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2-methyl-2H-isoquinolin-1-one hydrochloride | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC=C1C=CN(C(C1=C2)=O)C | InChI=1S/C25H27N3O2S.ClH/c1-26-11-8-19-6-7-20(18-22(19)25(26)29)30-16-3-10-27-12-14-28(15-13-27)23-4-2-5-24-21(23)9-17-31-24;/h2,4-9,11,17-18H,3,10,12-16H2,1H3;1H
